US03957783
To a solution of 5.0 g of 2-acetylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b ]thiophene in 60 ml of dimethylformamide is added 0.9 g of 63% sodium hydride. The mixture is stirred at room temperature for 30 minutes. Then 71.3 g of methyl iodide in 20 ml of dimethylformamide is added thereto. The mixture is stirred at room temperature for 3 hours, then poured into water, and extracted with benzene. The benzene extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure to give 2-(N-methylacetylamino)-3-benzoyl-4,5,6,7-tetrahydrobenzo[b] thiophene as an oil. This layer chromatography (Kiesel gel) shows the Rf value of 0.44 using a mixture of ethyl acetate and chloroform (1 : 1 V/V).

reactant | 2-acetylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b ]thiophene | 5.0 g | C(C)(=O)NC1=C(C2=C(S1)CCCC2)C(C2=CC=CC=C2)=O | C17H17NO2S
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | methyl iodide | 71.3 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(N-methylacetylamino)-3-benzoyl-4,5,6,7-tetrahydrobenzo[b] thiophene | CCC(=O)NC1=C(C2=C(S1)CCCC2)C(C2=CC=CC=C2)=O | C18H19NO2S
